US04281188
Excess gaseous methylamine is conducted into a dichloroethane solution of [6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate, obtained in analogy to the procedure described in paragraph (a) of Example 1 from 10 g (0.031 M) of 7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one, and the mixture is concentrated. The residue is dissolved in methylene chloride/water and extracted with methylene chloride. The organic phase is separated, dried with sodium sulphate, filtered and concentrated. After purification on a 500 g silica gel column using ethyl acetate as the eluting agent, the product is crystallised from ethyl acetate/ether. There is obtained 1-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-methylurea which melts at 145°-160° C. with decomposition.

reactant | methylamine | CN | CH5N
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | [6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate | ClC1=C(C=CC2=C1C(=NCC(N2C)=O)C2=C(C=CC=C2)F)N=C=O | C17H11ClFN3O2
reactant | 7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.031 M, 10 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1Cl | C16H13ClFN3O
product | 1-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-methylurea | ClC1=C(C=CC2=C1C(=NCC(N2C)=O)C2=C(C=CC=C2)F)NC(=O)NC | C18H16ClFN4O2
